US08802858B2
(4-Acetyl-phenyl)-carbamic acid benzyl ester
To a stirred solution of 10 g of 4-aminoacetophenone (74 mmol, 1 eq) in a mixture of 60 ml of water and 100 ml of dioxane at 0° C., 12.43 g of NaHCO3 (148 mmol, 2 eq) and 15.3 g of benzyl chloroformate (85 mmol, 1.15 eq, purity 95%) are added. The mixture is stirred at room temperature for 4 h and then concentrated under reduced pressure to remove the dioxane. The suspension is diluted with 70 ml of water and 150 ml of ethyl acetate. The phases are separated and the organic layer is washed with 2×50 ml of brine, dried over Na2SO4, filtered and concentrated under reduced pressure to give 19.5 g of the product as solid.

reactant | 4-aminoacetophenone | 74 mmol, 10 g, 1 eq | CC(=O)C1=CC=C(C=C1)N | C8H9NO
reactant | NaHCO3 | 148 mmol, 12.43 g, 2 eq | C(=O)(O)[O-].[Na+]
reactant | benzyl chloroformate | 85 mmol, 15.3 g, 1.15 eq | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
solvent | water | 60 ml | O | H2O
solvent | dioxane | 100 ml | O1CCOCC1 | C4H8O2
product | (4-Acetyl-phenyl)-carbamic acid benzyl ester | 19.5 g | C(C1=CC=CC=C1)OC(NC1=CC=C(C=C1)C(C)=O)=O | C16H15NO3
